US09108966B2
A solution of tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinecarbonothioyl)piperazine-1-carboxylate (0.66 g, 1.27 mmol) and Lawesson's reagent (0.36 g, 0.89 mmol) in THF (15 mL) was heated at 66° C. for 1 h, then cooled down to rt Hg(OAc)2 (0.4 g) was added and the mixture was stirred at rt overnight. The solution was then concentrated and the residue was purified by silica gel column chromatography (1:2 EtOAc/petroleum ether) to give tert-butyl 4-(5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)piperazine-1-carboxylate (0.15 g, 24%) as a light yellow solid. ESI-MS (EI+, m/z): 501 [M+H]+.

reactant | tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinecarbonothioyl)piperazine-1-carboxylate | 1.27 mmol, 0.66 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC(=S)N2CCN(CC2)C(=O)OC(C)(C)C | C24H34N6O5S
reactant | Lawesson's reagent | 0.89 mmol, 0.36 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Hg(OAc)2 | 0.4 g | [Hg](OC(=O)C)OC(=O)C
product | tert-butyl 4-(5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)piperazine-1-carboxylate | 0.15 g, 24% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NN=C(S2)N2CCN(CC2)C(=O)OC(C)(C)C | C24H32N6O4S
